US07732452B2
Rac-4-[2,2-Difluoro-2-(4′-fluoro-biphenyl-4-yloxy)-acetylamino]-thiophene-3-carboxylic acid
In analogy to Example 58, the title compound was prepared using 4-amino-thiophene-3-carboxylic acid methyl ester, chlorodifluoroacetyl chloride and 4-fluoro-4′-hydroxybiphenyl. MS (m/e): 406.1 (M−H).

reactant | 4-amino-thiophene-3-carboxylic acid methyl ester | COC(=O)C1=CSC=C1N | C6H7NO2S
reactant | chlorodifluoroacetyl chloride | ClC(C(=O)Cl)(F)F | C2Cl2F2O
reactant | 4-fluoro-4′-hydroxybiphenyl | FC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9FO
product | Rac-4-[2,2-Difluoro-2-(4′-fluoro-biphenyl-4-yloxy)-acetylamino]-thiophene-3-carboxylic acid | FC(C(=O)NC=1C(=CSC1)C(=O)O)(OC1=CC=C(C=C1)C1=CC=C(C=C1)F)F | C19H12F3NO4S
